US08912300B2
Into a 200 mL four-neck flask equipped with a stirrer, a thermometer, and a cooling tube, 20.0 g of 3-(bromomethyl)biphenyl, 39.3 g of anhydrous dimethylformamide, 13.4 g of anhydrous potassium carbonate, and 6.2 mg of methoquinone were charged, and acrylic acid was added thereto at room temperature. After the completion of foaming of carbon dioxide, the mixture was heated to a reaction temperature of 90° C. and a reaction was caused to proceed for two hours. The temperature was decreased to room temperature, and then dilution with 120 mL of water, extraction with 100 g of toluene, and washing with water were performed. The resultant crude reaction product was purified with a silica gel column to obtain 16.1 g of meta-phenylbenzyl acrylate. The obtained meta-phenylbenzyl acrylate was a colorless, transparent liquid at ordinary temperature and had a refractive index of 1.5888 and a viscosity of 24 mPa·s at 25° C. The measurement result of 1H-NMR is shown below.

reactant | 3-(bromomethyl)biphenyl | 20.0 g | BrCC=1C=C(C=CC1)C1=CC=CC=C1 | C13H11Br
reactant | potassium carbonate | 13.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
reactant | carbon dioxide | C(=O)=O | CO2
solvent | dimethylformamide | 39.3 g | CN(C=O)C | C3H7NO
product | meta-phenylbenzyl acrylate | 16.1 g | C(C=C)(=O)OCC1=CC(=CC=C1)C1=CC=CC=C1 | C16H14O2
